* C:\Users\justi\Documents\LTspiceXVII\T42 Schematic.asc
.subckt SwitchCircuit VA VB Sv Sh Av Ah Bv Bh Cv Ch
R1 N001 VA 10
C1 N001 0 50u
C2 0 VB 50u
D1 N003 N006 D
R2 VB N006 5.1k
R3 N002 N001 120
R4 0 N002 180
R5 N003 0 120
R6 VB N003 390
C3 N002 0 50u
C4 0 N003 50u
R7 VB N005 5.1k
D2 N003 N005 D
D3 N003 N004 D
R8 VB N004 5.1k
Q1 N004 N023 N002 0 PNP
Q2 N009 N015 N023 0 PNP
Q3 N006 N025 N002 0 PNP
Q4 N005 N026 N002 0 PNP
Q5 N012 N014 N026 0 PNP
R9 0 N011 1k
R10 N011 N016 1k
R11 0 N010 20k
R12 0 N015 20k
R13 0 N009 2k
R14 N023 N002 510
R15 N025 N002 510
C5 N010 N009 .5u
C6 N016 N015 .5u
C7 N007 N011 .001u
D4 N007 N012 D
D5 N007 N008 D
R16 0 N007 5.1k
R17 0 N012 2k
C8 N013 N012 .001u
C9 N008 N014 .001u
R18 N013 N012 10k
R19 N008 N014 10k
R20 0 N008 2k
Q6 N005 N025 N002 0 PNP
Q7 N016 N010 N025 0 PNP
R21 N026 N002 510
R22 N014 N001 30k
R23 N013 N001 30k
Q8 N008 N013 N024 0 PNP
R24 N024 N002 510
Q9 N006 N024 N002 0 PNP
R25 N032 N006 51k
R26 N031 N006 51k
Q10 N022 N032 Sh 0 PNP
Q11 N021 N031 Sv 0 PNP
Q12 N020 N030 Sh 0 PNP
R27 N030 N005 51k
Q13 N019 N029 Sv 0 PNP
R28 N029 N005 51k
Q14 N018 N028 Sh 0 PNP
Q15 N017 N027 Sv 0 PNP
R30 N004 N001 51k
R32 N028 N004 51k
R31 N027 N004 51k
R33 N006 N001 51k
R29 N005 N001 51k
R34 Av N017 51k
R35 Ah N018 51k
R36 Bv N019 51k
R37 Bh N020 51k
R38 Cv N021 51k
R39 Ch N022 51k
R40 N017 0 1k
R41 N018 0 1k
R42 N019 0 1k
R43 N020 0 1k
R44 N021 0 1k
R45 N022 0 1k
.model D D
.lib C:\Users\justi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\justi\Documents\LTspiceXVII\lib\cmp\standard.bjt
* To Scope Vert.
* To Scope Hor.
* Power Supply Port A
* Power Supply Port B
.backanno
.ends SwitchCircuit
.end
